US07585868B2
A solution of benzenesulfonamide-4-boronic acid pinacol ester (23 mg, 0.08 mmol) in EtOH (3.3 mL) was added to a solution of 3-iodo-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine (20 mg, 0.07 mmol) in DME (12 mL). Pd(PPh3)4 (16 mg, 0.014 mmol) and saturated Na2CO3 (1.9 mL) were added and the reaction was heated to 80° C. under an argon atmosphere overnight. After cooling, the reaction was extracted with saturated NaCl and CH2Cl2. Organic phases were combined, concentrated in vacuo and purified by RP-HPLC (MeCN:H2O:0.1% TFA) to yield BA14 (2.2 mg, 10% yield). ESI-MS (M+H)+ m/z calcd 333.1, found 333.1.

reactant | benzenesulfonamide-4-boronic acid pinacol ester | 0.08 mmol, 23 mg | B1(OC(C(O1)(C)C)(C)C)C2=CC=C(C=C2)S(=O)(=O)N | C12H18BNO4S
reactant | 3-iodo-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.07 mmol, 20 mg | IC1=NN(C2=NC=NC(=C21)N)C(C)C | C8H10IN5
reactant | Na2CO3 | 1.9 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOH | 3.3 mL | CCO | C2H6O
solvent | DME | 12 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.014 mmol, 16 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(4-Amino-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-benzenesulfonamide | 2.2 mg, 10% yield | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)S(=O)(=O)N)C(C)C | C14H16N6O2S
